US08293768B2
Synthesis of N-benzyl-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide
Following the procedure as describe in Example 8, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid to react with benzylamine, the title compound was obtained as a white powder in 60% yield: mp 185-186° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.76 (d, J=9.0 Hz, 2H), 7.30-7.28 (m, 6H), 6.73 (t, J=6.0 Hz, 2H), 6.41 (s, 1H), 4.59 (d, J=6.0 Hz, 2H), 4.44 (s, 2H), 4.05-4.00 (m, 2H), 3.40-3.35 (m, 2H), 2.29 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 166.8, 158.7, 155.9, 147.2, 139.6, 138.2, 134.0, 128.7, 128.3, 127.9, 127.6, 127.5, 106.9, 47.6, 44.0, 42.3, 41.9, 17.3; MS (ES+) m/z 407.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O | C15H15N3O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide | 60% yield | C(C1=CC=CC=C1)NC(C1=CC=C(C=C1)CN1C(N(CC1)C=1SC=C(N1)C)=O)=O | C22H22N4O2S
